US04868174
To a solution of benzhydryl 7-tert-butoxycarbonylamino-3-iodomethyl-3-cephem-4-carboxylate-1-oxide (4.3 g) in dimethylformamide (70 ml) was added 1-methylpyrrolidine (0.63 g) at 0° C. The mixture was stirred for 1.5 hours under ice-cooling and poured into a mixture of ethyl acetate (700 ml) and ice-water (350 ml). The separated organic layer was washed with water, brine and dried over magnesium sulfate. The solvent was distilled off and the residue was pulverized in diisopropyl ether, collected by filtration and dried in vacuo to give powdery benzhydryl 7-tert-butoxycarbonylamino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate-1-oxide iodide (4.3 g).

reactant | benzhydryl 7-tert-butoxycarbonylamino-3-iodomethyl-3-cephem-4-carboxylate-1-oxide | 4.3 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2=O)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H27IN2O6S
reactant | 1-methylpyrrolidine | 0.63 g | CN1CCCC1 | C5H11N
reactant | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-tert-butoxycarbonylamino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate-1-oxide iodide | 4.3 g | [I-].C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2=O)C[N+]2(CCCC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C31H37N3O6S.HI/c1-31(2,3)40-30(37)32-24-27(35)33-25(23(20-41(38)28(24)33)19-34(4)17-11-12-18-34)29(36)39-26(21-13-7-5-8-14-21)22-15-9-6-10-16-22;/h5-10,13-16,24,26,28H,11-12,17-20H2,1-4H3;1H/t24?,28-,41?;/m1./s1
